Name:  ___                          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx HTN, HL who presents with worsening exertional chest 
pain. 

He was in his usual health until ___ wks prior to admission, 
when he notes onset of discomfort with eating; he cannot further 
describe the characteristics. The pain lasted several hours and 
spontaneously resolved. Since that episode he notes worsening 
exertional chest pain. In the last ___ now pain is constant and 
feels like chest pressure, without radiation to the neck, jaw, 
or upper extremity. He has never felt this discomfort before. 
Today, he ate a hamburger about 1h PTA; he thinks this 
exacerbated the pain. He tool 3x ASA, so he came into the ED for 
further evaluation. 

In the ED, initial vitals: 98.0 44 144/67 18 100% RA 
- Labs: Chemistry, CBC, and Tn were normal.
- Imaging: CXR showed no acute process. ECG was read in ED as 
"NSR w/ PVCs. NANI. No STEMI."
- Interventions: ASA 81, SL NTG (apparently relieved her CP), 1L 
NS.
- Consults: none
Per discussion with ED providers, this patient would usually 
have remained in the ED for biomarker monitoring and stress test 
on ___ however, because stress test was not available, she was 
admitted to the Cardiology service for ACS rule out. 
VS on transfer 97.9 48 117/62 22 98% RA. 

On the floor, the patient recounts the history above. 
Additionally, he reports that he has been getting very fatigued 
when climbing a flight of stairs. He becomes very lightheaded 
and has almost passed out. Denies orthopnea, PND, ___ edema. 

He also reports significant LUTS, including weak stream, 
urgency, frequency, nocturia, and occasional incontinence. Of 
note, he has had this problem for years, but is on solifenacin 
alone. 

Otherwise, denies pain anywhere. Denies HA, visual changes, 
overt syncope, dyspnea, cough, abd pain, n/v/d/c. 
 
Past Medical History:
- HTN
- hyperlipidemia
- colonic adenoma
- osteoarthritis
- GERD

 
Social History:
___
Family History:
- father: CAD, HTN
- cousin: colon cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: afebrile, 136/72, (86*), 20, 100/ra
GEN: Alert, lying in bed, no acute distress  
COR: 
-- His VS were taken while observing the screen on the telemetry 
box. Though his electrical rate is recorded as ___, he is noted 
to have bigeminy, and a pulse is only palpable during the 
initial QRS complex of the couplet ("morphology 1" - appears to 
be native P->QRS). Heart sounds can only be auscultated during 
the initial QRS complex (not the second complex, "morphology 2," 
which appears to be a non-conducted PVC). There appears to be no 
cardiac activity in response to the second beat (morphology 2), 
making his actual pulse ___ despite recorded electrical activity 
in the ___. 
-- I asked the patient to exercise through a series of about 30 
"prisoner squats," which increased his HR to 100s. he did not 
develop lightheadedness, syncope, or other symptoms. on 
telemetry, his HR increased, and there were more native QRS 
complexes and fewer non-conducted PVCs
-- Heart sounds regular, with distant S1/S2. NMRG.  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
PULM: Generally CTA b/l without wheeze or rhonchi  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: AOx3. CN II-XII grossly intact, motor function grossly 
normal

DISCHARGE PHYSICAL EXAM
=======================
VS: 98.1 ___ 18 96%RA
GEN: Alert, lying in bed, no acute distress  
COR: Heart sounds irregular, with distant S1/S2. NMRG.  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
PULM: Generally CTA b/l without wheeze or rhonchi  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: AOx3. CN II-XII grossly intact, motor function grossly 
normal
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:48PM BLOOD WBC-7.2 RBC-5.00 Hgb-15.5 Hct-46.2 MCV-92 
MCH-31.0 MCHC-33.5 RDW-13.6 RDWSD-45.8 Plt ___
___ 03:48PM BLOOD Neuts-66.3 ___ Monos-6.6 Eos-3.8 
Baso-0.8 Im ___ AbsNeut-4.74 AbsLymp-1.60 AbsMono-0.47 
AbsEos-0.27 AbsBaso-0.06
___ 03:48PM BLOOD Glucose-115* UreaN-19 Creat-1.0 Na-142 
K-4.1 Cl-105 HCO3-27 AnGap-14
___ 03:48PM BLOOD cTropnT-<0.01
___ 03:48PM BLOOD Calcium-9.0 Phos-3.6 Mg-2.1

DISCHARGE AND PERTINENT LABS
============================
___ 06:10AM BLOOD WBC-5.4 RBC-4.67 Hgb-14.4 Hct-42.4 MCV-91 
MCH-30.8 MCHC-34.0 RDW-13.4 RDWSD-43.8 Plt ___
___ 06:10AM BLOOD Glucose-101* UreaN-17 Creat-0.8 Na-142 
K-3.8 Cl-109* HCO3-26 AnGap-11
___ 06:10AM BLOOD CK-MB-4 cTropnT-<0.01
___ 11:20PM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:10AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.1

MICROBIOLOGY
============
none

IMAGING
=======
___ CXR PA&L
FINDINGS: 
The lungs are clear.  There is no focal consolidation, effusion, 
or edema. 
The cardiomediastinal silhouette is within normal limits.  No 
acute osseous
abnormalities.
 
IMPRESSION: 
No acute cardiopulmonary process.

 
Brief Hospital Course:
___ with history of HTN, HL who presented to ___ ED with 
symptomatic PVCs and questionable exertional chest pain for 
several days. 

#Bradycardia: Most likely PVC induced concealed mechanical 
bradycardia with symptomatic lightheadedness. His ECGs were 
notable for ventricular bigeminy, with each native QRS 
associated with a PVC. On physical exam, the PVCs seen on 
telemetry did not produce palpable pulses or audible heart 
sounds, and on TTE dated ___ it can be observed producing 
ineffective beats. He was able to augment his sinus rate with 
exercise, which decreased frequency of PVCs. He was started on 
flecainide 75 mg bid to suppress the PVCs. He may benefit from 
event monitoring to determine the frequency of these PVCs to 
better ascertain whether they are the cause of his symptoms, and 
he will follow up with Dr. ___ who ___ determine further 
steps and a cardiac stress test if necessary.

#ACS Rule out: He underwent ACS rule out with nonischemic serial 
ECGs and negative cardiac biomarkers x 3, and will be referred 
for outpatient stress testing after he follows up with 
electrophysiologist Dr. ___ as an outpatient.

#BPH: Patient described significant LUTS, but is prescribed 
solifenacin (approved for overactive bladder); however, his 
incontinence is most likely overflow, as it is occuring in the 
setting of weak stream, urgency, frequency, and nocturia 
consistent with BPH. We discontinued solifenacin and started 
tamsulosin.

TRANSITIONAL
============
- Follow up appointments: PCP, ___ (not scheduled at d/c)
- Started on flecainide 75mg BID
- ___ need outpatient stress test, Holter monitoring - to be 
determined at cardiology follow up 
- ___ need Urology eval for lower urinary tract symptoms/BPH
- No AVN blocking agents for now given symptomatic PVCs
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. esomeprazole magnesium 20 mg oral DAILY 
2. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
3. Simvastatin 40 mg PO DAILY 
4. solifenacin 5 mg oral DAILY 
5. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
2. Cetirizine 10 mg PO DAILY 
3. esomeprazole magnesium 20 mg oral DAILY 
4. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
5. Simvastatin 40 mg PO DAILY 
6. Flecainide Acetate 75 mg PO Q12H 
RX *flecainide 50 mg 1.5 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- angina without acute coronary syndrome
- symptomatic PVCs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for chest pressure when you exert 
yourself, and for lightheadedness. Your evaluation for a heart 
attack was negative; however, you should have a stress test as 
an outpatient. 

Additionally, your evaluation showed that you have many 
heartbeats that ___ not send enough blood out to your body; this 
is likely why you are getting lightheaded. We will send you home 
on a medication to adjust your heart rhythm to try to prevent 
these symptoms. You will follow up with a cardiologist(Dr. ___ 
___ who specializes in the electrical rhythm of the heart to 
determine next steps.

Please see your appointments and medications below. If you have 
any questions or concerns, please call ___ and ask for 
Dr. ___ or Dr. ___ to be paged to 
assist you.

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___